.subckt nr222 A0 A1 B0 B1 VDD VSS X
M7 N001 A0 VSS VSS nchor1ex w=2u l=1u
M6 N002 B0 VSS VSS nchor1ex w=2u l=1u
M5 X B1 N002 VSS nchor1ex w=2u l=1u
M4 X A1 N001 VSS nchor1ex w=2u l=1u
M3 X B1 net31 VDD pchor1ex w=6u l=1u
M2 X B0 net31 VDD pchor1ex w=6u l=1u
M1 net31 A1 VDD VDD pchor1ex w=6u l=1u
M0 net31 A0 VDD VDD pchor1ex w=6u l=1u
.ends nr222